US07754721B2
To a stirring solution of 3-benzyl-4-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester (1.61 g, 3.2 mmol) in 20 mL THF at 0° C. was added TBAF (3.5 mL, 1.0 M in THF, 3.5 mmol). After 15 minutes the solution was quenched by the addition of water, concentrated under reduced pressure, and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification via flash chromatography (5% to 40% EtOAc in hexanes) afforded 3-benzyl-4-(1H-indol-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.17 g, 93%) as a white foam; MS (M+H)=392.

reactant | 3-benzyl-4-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 3.2 mmol, 1.61 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=C2C=CN(C2=CC1)[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C30H43N3O2Si
reactant | TBAF | 3.5 mmol, 1.0 M, 3.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-benzyl-4-(1H-indol-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.17 g, 93% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C24H29N3O2
